US04413013
To a stirred solution cooled to -10° of 18.5 g. (0.1 mole) of N-methyl-p-toluenesulfonamide and 10.1 g. (0.1 mole) of triethylamine in 300 ml. of methylene chloride is added dropwise 10.3 g. (0.1 mole) sulfur dichloride. The reaction mixture is stirred at ambient temperature for 0.5 hour and cooled to 10°. A solution of 18.3 g (0.1 mole) of N-methyl-N'-(4-chloro-o-tolyl)formamidine and 10.1 g. (0.1 mole) triethylamine in 100 ml. of methylene chloride is added rapidly with stirring. The reaction mixture is stirred at ambient temperature for 0.5 hour and extracted successively with 300 ml. of water, 300 ml. aqueous citric acid solution containing 10.5 g. (0.05 mole) of citric acid, and 300 ml. of water. The organic layer is dried and the solvent removed under reduced pressure. The residue is chromatographed over 100 g. silica gel using Hexane:Et2O:Et3N (18:2:3 by volume) to obtain 3.2 g. (8% yield) of N-[[[N-(4-chloro-o-tolyl)-formimidoyl]methylamino]thio]-N-methyl-p-toluenesulfonamide as a viscous oil.

reactant | N-methyl-p-toluenesulfonamide | 0.1 mole | CNS(=O)(=O)C1=CC=C(C=C1)C | C8H11NO2S
reactant | triethylamine | 0.1 mole | C(C)N(CC)CC | C6H15N
reactant | sulfur dichloride | 0.1 mole | S(Cl)Cl | Cl2S
reactant | N-methyl-N'-(4-chloro-o-tolyl)formamidine | 0.1 mole, 18.3 g | CNC=NC1=C(C=CC(=C1)Cl)C | C9H11ClN2
reactant | triethylamine | 0.1 mole | C(C)N(CC)CC | C6H15N
reactant | citric acid | 0.05 mole | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[[[N-(4-chloro-o-tolyl)-formimidoyl]methylamino]thio]-N-methyl-p-toluenesulfonamide | 8% yield | ClC1=CC(=C(C=C1)C)N=CCNSN(S(=O)(=O)C1=CC=C(C=C1)C)C | C17H20ClN3O2S2
